US04473570
To a solution of 4.8 g (21.3 mmole) of 5,7-bis(methylthio)-3-methylimidazo[1,5-c]pyrimidine in 10 ml of water and 90 ml of methanol was added 5.0 g (23.1 mmole) of 25% sodium methoxide in methanol. The mixture was heated at reflux for 16 hours, poured into 400 ml of an ice-water mixture, and acidified with 3 ml of concentrated hydrochloric acid. The mixture was basified with solid sodium bicarbonate, and the precipitate was separated by filtration. The solid was washed with water and dried to provide 3-methyl-7-methylthioimidazo[1,5-c]pyrimidin-5-one, m.p. 221°-222° C. Analysis: Calculated for C8H9N3OS; %C, 49.2; %H, 4.7; %N, 21.5; Found; %C, 48.9; %H, 4.6; %N, 21.6.

reactant | 5,7-bis(methylthio)-3-methylimidazo[1,5-c]pyrimidine | 21.3 mmole, 4.8 g | CSC1=NC(=CC=2N1C(=NC2)C)SC | C9H11N3S2
reactant | sodium methoxide | 23.1 mmole, 5.0 g | C[O-].[Na+]
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 10 ml | O | H2O
solvent | methanol | 90 ml | CO | CH4O
product | 3-methyl-7-methylthioimidazo[1,5-c]pyrimidin-5-one | CC1N=CC=2N1C(N=C(C2)SC)=O | C8H9N3OS
